US06613913B2
{(7-{[(Benzyloxy)carbonyl]amino}-8-hydroxy-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-Methylbenzenesulfonate
A solution of {(2R)-7-{[(benzyloxy)carbonyl]amino}-8-formyl-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate (4.45 g, 8.95 mmole) in methylene chloride (50 mL) was added dropwise to a solution of m-chloroperoxybenzoic acid (6.45 g, 22.4 mmole) in methylene chloride (120 mL). The reaction was stirred under nitrogen overnight. After dilution to 300 mL in volume, it was washed with saturated sodium bicarbonate (2×200 mL), brine (100 mL), dried over magnesium sulfate, filtered and evaporated to dryness. A H1 NMR spectra was taken of the crude product and it was determined to be the formate ester. Cleavage was effected by stirring in methanol over basic alumina overnight. After filtration and evaporation, the product was purified by column chromatography on silica gel with hexane to remove the impurities, and the product eluted with methylene chloride to give the (R)-enantiomer of the title compound as a yellow oil (1.80 g, 40%). 1H (CDCl3) doublet 7.8 δ (2H); multiplet 7.2-7.4 δ (7H); broad singlet 7.0 δ (1H); doublet 6.4 δ (1H); singlet 5.2 δ (2H); multiplet 4.4 δ (1H); multiplet 4.2 δ (3H); multiplet 4.0 δ (1H); singlet 2.4 δ (3H).

reactant | {(2R)-7-{[(benzyloxy)carbonyl]amino}-8-formyl-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 8.95 mmole, 4.45 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)NC(=O)OCC2=CC=CC=C2)C=O | C25H23NO8S
reactant | m-chloroperoxybenzoic acid | 22.4 mmole, 6.45 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | (7-{[(Benzyloxy)carbonyl]amino}-8-hydroxy-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-Methylbenzenesulfonate | 1.80 g, 40% | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)NC(=O)OCC2=CC=CC=C2)O | C24H23NO8S
